### ISSUE TITLE
simp dedup bug

### ISSUE THREAD

**Issue by b-mehta** [leanprover-community/lean#236]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover-community/lean/issues).
        * Specifically, check out the [wishlist](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3AI-wishlist), open [RFCs](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3ARFC),
        or [feature requests](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3AFeature).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

It appears `simp only` sometimes creates a buggy `congr` proof.

### Steps to Reproduce

```lean
def foo_rec (n : ℕ) (k : Type) [group k]  : Prop :=
nat.rec_on n (true) (λn rec, true)

lemma stupid (k : Type) [group k] (n : ℕ) :
  foo_rec n k ↔ foo_rec n k :=
begin
  induction n with n IH,
  simp only [nat.nat_zero_eq_zero],
  admit,
  tactic.result >>= tactic.trace,
end
```

**Reproduces how often:** 
Every time

### Versions

You can get this information from copy and pasting the output of `lean --version`,
please include the OS and what version of the OS you're running.

### Additional Information

Example taken from here: https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/simp.20and.20dedup, where there is some discussion. Another example: 
https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Strange.20term.20creation.20error

**Comment by jcommelin** [comment]
Zulip discussion: https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/simp.20and.20dedup

**Comment by gebner** [comment]
Better MWE:
```lean
constant foo_rec (n : ℕ) (k : Type) [group k]  : Prop

set_option pp.all true

lemma stupid (k : Type) [group k] (n : ℕ) :
  foo_rec nat.zero k ↔ foo_rec nat.zero k :=
begin
  simp only [nat.nat_zero_eq_zero],
  tactic.result >>= tactic.trace,
end
```

**Comment by gebner** [comment]
Even better repro:
```lean
constant foo_rec (n : ℕ) (k : Type) [group k]  : Prop
open tactic
#eval do
cgr ← mk_congr_lemma_simp `(foo_rec),
type_check cgr.proof
```

**Comment by gebner** [comment]
The issues goes back to at least 3.3
